US09034900B2
Step 4: N-[4-(cyclopropylmethoxy)-3-(tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]ethane-1-sulfonamide
A mixture of N-[3-bromo-4-(cyclopropylmethoxy)phenyl]ethane-1-sulfonamide (711 mg, 2.1 mmol), 4,4,5,5-tetramethyl-2-(tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane (1.1 g, 4.3 mmol), KOAc (470 mg, 4.8 mmol), Pd2(dba)3 (59 mg. 3%), and 1,3,5,7-Tetramethyl-6-phenyl-2,4,8-trioxa-6-phosphaadamantane (62 mg, 10%) was suspended in anhydrous dioxane (14 mL). The stirred mixture was capped and purged with nitrogen for 6 min using an oil bubbler as an outlet. After the nitrogen inlet and outlet were removed, the capped flask was stirred at 70° C. for 3 h. After cooling to about 35° C., the reaction mixture was filtered through a short plug of celite; the celite plug was washed with EtOAc (75 mL). The filtrate was treated with water and extracted with EtOAc; the combined organic layers were washed with brine, dried over sodium sulfate, filtered and concentrated in vacuo to afford a tan residue. The residue was purified by silica gel column chromatography using a gradient of EtOAc (5 to 100%) in hexanes to afford the title compound (527 mg, 65%). LCMS (M+H)+=382.

reactant | N-[3-bromo-4-(cyclopropylmethoxy)phenyl]ethane-1-sulfonamide | 2.1 mmol, 711 mg | BrC=1C=C(C=CC1OCC1CC1)NS(=O)(=O)CC | C12H16BrNO3S
reactant | 4,4,5,5-tetramethyl-2-(tetramethyl-1,3,2-dioxaborolan-2-yl)-1,3,2-dioxaborolane | 4.3 mmol, 1.1 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | KOAc | 4.8 mmol, 470 mg | CC(=O)[O-].[K+]
reactant | 1,3,5,7-Tetramethyl-6-phenyl-2,4,8-trioxa-6-phosphaadamantane | 62 mg | CC12OC3(OC(P(C(O1)(C3)C)C3=CC=CC=C3)(C2)C)C | C16H21O3P
solvent | dioxane | 14 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2(dba)3 | 59 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-[4-(cyclopropylmethoxy)-3-(tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]ethane-1-sulfonamide | 527 mg, 65% | C1(CC1)COC1=C(C=C(C=C1)NS(=O)(=O)CC)B1OC(C(O1)(C)C)(C)C | C18H28BNO5S
